US07919504B2
5-(Benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-amine.
A mixture of 6-(5-(methylsulfonyl)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole (0.16 g, 0.54 mmol) and excess ammonium acetate (1.93 mL, 26.9 mmol) was heated in a microwave-safe reaction vessel at 140° C. for 30 minutes under microwave irradiation. The mixture was cooled, 5% MeOH in DCM (with NH3) was added, and the mixture was adsorbed onto silica gel. The residue was purified by flash column chromatography (DCM—10% MeOH in DCM) to obtain the desired product as an off-white solid (89 mg, 71%). LCMS (API-ES) m/z (%): 235.3 (100%, M+H+); 1H-NMR (400 MHz, CD3OD) δ ppm 9.02 (s, 1 H) 8.49 (s, 1 H) 8.25 (d, J=8.53 Hz, 1 H) 7.98 (d, J=9.03 Hz, 1 H).

reactant | 6-(5-(methylsulfonyl)-1,3,4-thiadiazol-2-yl)benzo[d]isothiazole | 0.54 mmol, 0.16 g | CS(=O)(=O)C1=NN=C(S1)C1=CC2=C(C=NS2)C=C1 | C10H7N3O2S3
reactant | ammonium acetate | 26.9 mmol, 1.93 mL | C(C)(=O)[O-].[NH4+]
reactant | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(Benzo[d]isothiazol-6-yl)-1,3,4-thiadiazol-2-amine | 89 mg, 71% | S1N=CC2=C1C=C(C=C2)C2=NN=C(S2)N | C9H6N4S2
